US08754079B2
XXXXXXII.2 N-[(1S,3S)-3-(5-Fluoro-2-nitro-phenoxy)-cyclopentyl]-acetamide
Acetyl chloride (360 μl) was added at 0° C. to a mixture of (1S,3S)-3-(5-fluoro-2-nitrophenoxy)-cyclopentylamine trifluoroacetate (1.80 g) and DIPEA (4.4 ml) in methylene chloride (150 ml) and stirred at rt for 1 hour. The reaction mixture was diluted with water and the organic layer was dried and concentrated. The crude was triturated with diisopropyl ether to give the desired product.

reactant | Acetyl chloride | 360 μl | C(C)(=O)Cl | C2H3ClO
reactant | (1S,3S)-3-(5-fluoro-2-nitrophenoxy)-cyclopentylamine trifluoroacetate | 1.80 g | FC(C(=O)O)(F)F.FC=1C=CC(=C(O[C@@H]2C[C@H](CC2)N)C1)[N+](=O)[O-]
reactant | DIPEA | 4.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[(1S,3S)-3-(5-Fluoro-2-nitro-phenoxy)-cyclopentyl]-acetamide | FC=1C=CC(=C(O[C@@H]2C[C@H](CC2)NC(C)=O)C1)[N+](=O)[O-] | C13H15FN2O4
